2180-10-01 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SHEATH in place s/p cardiac cath - START [**2180-9-30**] 08:00 PM
   RFV 8fr
 Developed nausea, chest
sourness,
 diaphoresis overnight, EKG
   concerning for worsening ST depression in ?inferior and lateral leads,
   flattening of T waves in lateral leads.  Attending and fellow were
   [**Name (NI) 161**], decided to medically manage until the morning.  Was given IV
   Morphine 2mg x2 and Zofran for symptoms.  Also noticed abdominal
   distension last night and ordered for stat KUB, but Xray tech arrived
   >30 mins following placement of order and symptoms had resolved,
   patient passing gas, nurse did not wish to wake patient for KUB given
   concern for catecholamine surge when awake and anxious so KUB was
   cancelled.
 This morning, patient discovered to be in significant abdominal pain
   with worsening distension and tense abdomen.  Complaining of nausea,
   abdominal pain.  Stat CT abdomen showed dilated loops of bowel, hernia
   which surgery preliminarily did not feel was incarcerated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Nitroglycerin - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-1**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 76 (71 - 76) bpm
   BP: 92/52(65) {85/49(62) - 128/76(95)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    320 mL
                                                                    546 mL
   PO:
             TF:
   IVF:
                                                                    320 mL
                                                                    546 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination (exam conducted prior to CT scan)
   GENERAL: Acutely uncomfortable in moderate distress, alert, interactive
   CARDIAC: Sinus tachycardia, no m/g/r
   LUNGS: CTAB anteriorly
   ABDOMEN: Significant distended, tympanitic, tender to palpation
   EXTREMITIES: No c/c/e.
   Labs / Radiology
   184 K/uL
   13.4 g/dL
   150 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   38.9 %
   14.3 K/uL
        [image002.jpg]
                            [**2180-9-30**]  06:50 PM
                            [**2180-9-30**]  11:45 PM
   WBC
   15.8
   14.3
   Hct
   41.4
   38.9
   Plt
   198
   184
   Cr
   1.1
   1.1
   TropT
   0.86
   0.57
   Glucose
   112
   150
   Other labs: PT / PTT / INR:13.0/46.1/1.1, CK / CKMB /
   Troponin-T:322/15/0.57, ALT / AST:39/53, Alk Phos / T Bili:41/1.2,
   Amylase / Lipase:40/, Albumin:4.1 g/dL, LDH:217 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 74 yo M with a history of stable angina per history who presents with
   chest pain and NSTEMI w/ persistent angina, found to have triple vessel
   disease on cardiac catheterization.
   .
   # Bowel Obstruction:  CT abdomen final read pending, will f/u.  NG tube
   in place.  General surgery following with serial abdominal exams,
   possible OR today if worsens.  Differential ischemic bowel vs.
   functional ileus [**1-10**] narcotics vs. ?incarcerated hernia (though
   reducible on exam and CT read by surgery attending on call does not
   appear incarcerated).  Pt has no history of abdominal surgeries in the
   past.
   - Monitor abdomen closely
   - f/u General Surgery recs
   - NGT to suction
   - f/u CT abdomen final read
   - f/u surgery re: whether enema is contraindicated since pt receiving
   Morphine for chest pain
   .
   # s/p NSTEMI:  Patient presented with angina that was initially
   medically managed on Heparin, Integrillin, Nitro gtt, and morphine, but
   had refractory symptoms.  Patient was taken for cardiac catheterization
   and was found to have diffuse triple vessel disease including 50% LMCA
   stenoss and subtotal occlusion of the RCA.  The patient had anatomy
   that is suitable for CABG.  The patient has been evaluated by CT
   Surgery, original plan for medical management overnight and CABG in AM
   but CABG on hold now per CT surgery given acute abdomen.  Pt did
   receive one dose of plavix on AM of [**9-30**].  LDL 182.  Integrillin off
   at 4am [**10-1**].  Heparin off in anticipation of possible procedure today.
   - Anticipate CABG following resolution of acute abdomen; f/u CT surgery
   recs
   - Cont NTG gtt for symptomatic relief
   - Plan to leave groin sheath in place
   - Cont Metoprolol, Atorvastatin 80mg daily, fish oil 1000mg [**Hospital1 **]
   - Ativan or Morphine prn for chest pain
   - NPO for now
   .
   # Pump:  Currently euvolemic.  Plan for TTE in the future.
   .
   # GERD
   Only has h/o GERD for past few years. Question if this was anginal
   equiv.  Plan for monitor overnight.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Sheath - [**2180-9-30**] 08:00 PM
   18 Gauge - [**2180-9-30**] 08:00 PM
   Prophylaxis:
   DVT: Heparin gtt (now off)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:  wife [**Name (NI) 2668**] [**Telephone/Fax (1) 9583**]
   [**Name2 (NI) 156**] status: Full code
   Disposition:  CCU care